US06603005B2
5.45 g of N-chlorosuccinimide were added to a solution of 6,7-dimethoxyquinolin-4-ol in 300 cm3 of acetic acid, with stirring and at a temperature in the region of 20° C. The reaction mixture was heated at a temperature in the region of 50° C. for 6 hours. After cooling to about 20° C. and stirring for 18 hours at this same temperature, the reaction mixture was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. One hundred cm3 of sodium hydrogen carbonate solution were added dropwise to the evaporation residue and the suspension was then stirred for 24 hours in the region of 20° C. The insoluble material was filtered off and then dried in an oven under reduced pressure (20 Pa). 5.39 g of 3-chloro-4-hydroxy-6,7-dimethoxyquinoline were obtained in the form of a dark green solid.

reactant | N-chlorosuccinimide | 5.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6,7-dimethoxyquinolin-4-ol | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
solvent | acetic acid | 300 cm3 | C(C)(=O)O | C2H4O2
product | 3-chloro-4-hydroxy-6,7-dimethoxyquinoline | 5.39 g | ClC=1C=NC2=CC(=C(C=C2C1O)OC)OC | C11H10ClNO3
